US05047411
The mixture of 6-bromomethyl-2-(N-ethylformamido)benzoxazole (0.35 g) and triphenylphosphine (0.32 g) in tetrahydrofuran (5 ml) was refluxed for 1.8 hours and the mixture was cooled to 0°-5° C. The isolated precipitate was collected by filtration to give [2-(N-ethylformamido)benzoxazol-6-yl]methyltriphenylphosphonium bromide (0.51 g).

reactant | 6-bromomethyl-2-(N-ethylformamido)benzoxazole | 0.35 g | BrCC1=CC2=C(N=C(O2)N(C=O)CC)C=C1 | C11H11BrN2O2
reactant | triphenylphosphine | 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [2-(N-ethylformamido)benzoxazol-6-yl]methyltriphenylphosphonium bromide | 0.51 g | [Br-].C(C)N(C=O)C=1OC2=C(N1)C=CC(=C2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H26N2O2P.BrH/c1-2-31(22-32)29-30-27-19-18-23(20-28(27)33-29)21-34(24-12-6-3-7-13-24,25-14-8-4-9-15-25)26-16-10-5-11-17-26;/h3-20,22H,2,21H2,1H3;1H/q+1;/p-1
